US06734180B1
4-(4-methoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine
Using 2-amino-4-methoxyindan (27 mg, 0.17 mmol) synthesized in the above b) in Preparation Example 5, 4-chloro-5-methylthieno[2,3-d]pyrimidine (31 mg, 0.17 mmol), triethylamine (71 μl, 0.51 mmol), and ethanol (1.5 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (50 mg, 0.16 mmol) having the following physical properties:

reactant | 2-amino-4-methoxyindan | 0.17 mmol, 27 mg | NC1CC2=CC=CC(=C2C1)OC | C10H13NO
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.17 mmol, 31 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
reactant | triethylamine | 0.51 mmol, 71 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4-(4-methoxyindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine | 0.16 mmol, 50 mg | COC1=C2CC(CC2=CC=C1)NC=1C2=C(N=CN1)SC=C2C | C17H17N3OS
